US08791108B2
(2S)-Ethyl 2-(tert-butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a slurry of (2S)-ethyl 2-(tert-butoxy)-2-(2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (82 mg, 0.132 mmol, 1 equiv) in acetonitrile (2.6 mL) was added Selectfluor (56 mg, 0.159 mmol, 1.2 equiv). After stirring 18 h, reaction is an orange slurry. LCMS indicated ˜50% conversion. The reaction was diluted with DCM and washed with saturated aqueous bicarbonate. The DCM layer was dried (Na2SO4) and concentrated in vacuo. The crude product was purified by flash silica gel chromatography (0-10% EtOAc in hexane) to provide desired product as a yellow solid (22 mg, 26% yield). 1H NMR (500 MHz, CDCl3) δ 7.20-7.16 (m, 1H), 7.15-7.10 (m, 1H), 7.04-6.99 (m, 1H), 6.99-6.94 (m, 1H), 6.87-6.81 (m, 1H), 4.95 (s, 1H), 4.57 (d, J=5.8 Hz, 2H), 4.35 (br. s., 2H), 4.19-4.11 (m, 2H), 2.80 (s, 3H), 2.78-2.73 (m, 2H), 2.27 (s, 3H), 2.18 (br. s., 2H), 1.81 (s, 3H), 1.29 (t, J=6.9 Hz, 3H), 1.17 (s, 9H); 19F NMR (471 MHz, CDCl3) d−119.41 (s, 1F), −139.50 (s, 1F), −175.35 (s, 1F); LCMS (ESI, M+1): 639.5.

reactant | (2S)-ethyl 2-(tert-butoxy)-2-(2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.132 mmol, 82 mg, 1 equiv | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(NCC2=CC(=C(C=C2)F)C)=O)C | C34H38F2N4O5
reactant | Selectfluor | 0.159 mmol, 56 mg, 1.2 equiv | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 2.6 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S)-Ethyl 2-(tert-butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 22 mg, 26% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2F)C(NCC2=CC(=C(C=C2)F)C)=O)C | C34H37F3N4O5
